* Ideal 4-bit SAR ADC using the r_ladder_dac SPICE netlist

* Analog input to convert (substituted by C++ at runtime)
VVIN vin 0 {VIN}

* Ideal comparator: cmp_out = 1.8V when vin >= vout, else 0V
Bcmp cmp_out 0 V=( V(vin) >= V(vout) ? 1.8 : 0.0 )

{LADDER_NETLIST}
